US07262185B2
4-nitrobenzenethiol (10 g) was dissolved in methanol (100 ml), 3N sodium hydroxide (32.2 ml) was added to the mixture, and 2-bromoethanol (9.7 g) was added dropwise to the mixture. The mixture was stirred for 1 hour at room temperature, the solvent was removed under reduced pressure, and water was added to the obtained residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was washed with hexane/ethyl acetate, to give 2-[(4-nitrophenyl)sulfanyl]ethanol (10.6 g).

reactant | 4-nitrobenzenethiol | 10 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | sodium hydroxide | 3N, 32.2 ml | [OH-].[Na+]
reactant | 2-bromoethanol | 9.7 g | BrCCO | C2H5BrO
solvent | methanol | 100 ml | CO | CH4O
product | 2-[(4-nitrophenyl)sulfanyl]ethanol | 10.6 g | [N+](=O)([O-])C1=CC=C(C=C1)SCCO | C8H9NO3S
